US07321041B2
5-Chloro-7-(3-hydroxyphenyl)-[1,6]naphthyridine
To a solution of 5-chloro-7-(3-methoxyphenyl)-[1,6]naphthyridine (0.052 g, 0.2 mmol) in dichloromethane (2 mL) was added boron tribromide (1 M solution in dichloromethane, 0.4 mL, 0.4 mmol) at −78° C. The resulting mixture was slowly warmed to room temperature. The residue was quenched with water and neutralized with aqueous sodium carbonate. The aqueous solution was then extracted with dichloromethane (2×30 mL). The combined organic extracts were dried over anhydrous magnesium sulfate and concentrated in vacuo to give a tan oil. Purification by flash chromatography eluting with hexanes/EtOAc (1:1) afforded the title compound as a yellowish solid (0.040 g). 1H NMR (DMSO-d6, 400 MHz) δ 9.70 (b, 1H), 9.19 (dd, 1H), 8.54-8.64 (m, 1H), 8.37 (s, 1H), 7.77(dd, 1H), 7.64 (m, 2H), 7.32 (t, 1H), 6.87 (m, 1H); MS (m/e) calculated for C16H13ClN2O 256, found 257.5 (M+H).

reactant | 5-chloro-7-(3-methoxyphenyl)-[1,6]naphthyridine | 0.2 mmol, 0.052 g | ClC1=C2C=CC=NC2=CC(=N1)C1=CC(=CC=C1)OC | C15H11ClN2O
reactant | boron tribromide | 0.4 mmol, 1 M, 0.4 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 5-Chloro-7-(3-hydroxyphenyl)-[1,6]naphthyridine | 0.040 g | ClC1=C2C=CC=NC2=CC(=N1)C1=CC(=CC=C1)O | C14H9ClN2O
